US04024119
Polybibenzyl sulfone homopolymers are prepared by heating bibenzyl-4-sulfonyl chloride in the presence of a catalytic amount of an anhydrous Lewis acid, or by using a stoichiometric mixture of bibenzyl and bibenzyl-4,4'-disulfonyl chloride is hereinafter described. The preparation of the homopolymer first necessitates the synthesis of either the mono or di sulfonyl chloride derivative of bibenzyl. Bibenzyl-4-sulfonyl chloride may be prepared by a three step procedure by treating bibenzyl in solution with approximately equi molar quantities of chlorosulfonic acid to form bibenzyl-4-sulfonic acid followed by neutralization in an aqueous medium using sodium or barium hydroxide to yield the sodium or barium salt which is in turn treated in a solvent with an acid halide such as thionyl chloride to yield bibenzyl-4-sulfonyl chloride. Another suitable technique for the preparation of the monosulfonyl chloride derivative involves the treatment of the free sulfonic acid derivative of bibenzyl in a solvent with a complex of phosgene and a tertiary organic amide.

reactant | bibenzyl-4-sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)CCC1=CC=CC=C1 | C14H13ClO2S
reactant | bibenzyl | C1(=CC=CC=C1)CCC1=CC=CC=C1 | C14H14
reactant | bibenzyl-4,4'-disulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)CCC1=CC=C(C=C1)S(=O)(=O)Cl | C14H12Cl2O4S2
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
product | bibenzyl-4-sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)CCC1=CC=CC=C1 | C14H14O3S
